US06933387B2
d) (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-7-chloro-6-methyl-1H-indole-2-carboxylic acid ethyl ester
The title compound was prepared in accordance with the general method of example 12b) from 7-chloro-6-methyl-1H-indole-2-carboxylic acid ethyl ester and (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester.

reactant | 7-chloro-6-methyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=C(C(=CC=C2C1)C)Cl | C12H12ClNO2
reactant | (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1S(O[C@H](C1)C)(=O)=O | C8H15NO5S
product | (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-7-chloro-6-methyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=C(C(=CC=C2C1)C)Cl)[C@@H](CNC(=O)OC(C)(C)C)C | C20H27ClN2O4
